US08431573B2
2-(3,4-Dichlorophenyl)ethanamidine hydrochloride
2.88 g (54 mmol) of ammonium chloride are suspended in 50 ml of toluene under an argon atmosphere and cooled to 0° C. After dropwise addition of 27 ml of a 2 M trimethylaluminium solution in toluene, the mixture is warmed to room temperature and then stirred for 1.5 h. 5 g (27 mmol) of 3,4-dichlorophenylacetonitrile are added, and the mixture is stirred at 80° C. overnight. After cooling to 0° C., 50 ml of methanol are added dropwise. The product is separated from the precipitated solid by filtration with suction, and the filter cake is washed several times with methanol. The combined filtrates are evaporated to dryness, and the residue is then suspended in dichloromethane/methanol 10:1 and again filtered with suction. Concentration of the filtrate results in 6.2 g (77% of theory) of the title compound.

reactant | ammonium chloride | 54 mmol, 2.88 g | [Cl-].[NH4+]
reactant | trimethylaluminium | 2 M | C[Al](C)C
reactant | 3,4-dichlorophenylacetonitrile | 27 mmol, 5 g | ClC=1C=C(C=CC1Cl)CC#N | C8H5Cl2N
reactant | methanol | 50 ml | CO | CH4O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3,4-Dichlorophenyl)ethanamidine hydrochloride | Cl.ClC=1C=C(C=CC1Cl)CC(=N)N | InChI=1S/C8H8Cl2N2.ClH/c9-6-2-1-5(3-7(6)10)4-8(11)12;/h1-3H,4H2,(H3,11,12);1H
